US08791161B2
2-amino-4-fluorobenzenethiol
A solution of 5-fluoro-2-methylbenzo[d]thiazole (1.2 g, 7.18 mmol) in ethylene glycol and NaOH (5N, 2 ml) was degassed under N2 for 10 min, then refluxed at 129° C. for 3 hours. The solution was cooled to 0° C. and then acidified to pH 3˜4 using c. HCl. The mixture was extracted with EtOAc (2×50 ml). The organic layer was washed with brine and dried with Na2SO4 and concentrated in vacuo. The crude residue (1.01 g, 98%) was used directly in the next step without purification.

reactant | 5-fluoro-2-methylbenzo[d]thiazole | 7.18 mmol, 1.2 g | FC=1C=CC2=C(N=C(S2)C)C1 | C8H6FNS
reactant | HCl | Cl | ClH
solvent | ethylene glycol | C(CO)O | C2H6O2
solvent | NaOH | 5N, 2 ml | [OH-].[Na+]
product | 2-amino-4-fluorobenzenethiol | NC1=C(C=CC(=C1)F)S | C6H6FNS
